data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,847,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CO.COC(CCC(C)C1CCC2C3C(O)CC4CC(O)CCC4(C)C3CCC12C)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3314,"C[Si:1](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)OCCOC1([O:2][Si](C)(C)C)CCC2=C(C=CC=C2)O1|(2, 1)"
train,pmechdb_split_0,0,9833,"C[C:1](O)([H:2])[CH2:3][Br:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6009,"CC(C)(C)S([O-])(Cl)[NH+:1](C)[H:2].CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,516,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C1=C2C=CC=CC(OCC)=C2C=C1C1=C(C)[O:1][C:2](C2=CC=C(OC)C=C2)([OH2+:3])C1.CN(C)C=O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7023,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=CC=C(C=CC[O-:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,6048,"BrC1=CC=CC([C:1](=[CH2:2])[O-:3])=C1.C[C:4](C1=CC(Br)=CC=C1)=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,454,"C[Si](C)(C)[CH2:1][Na:2].[CH2:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4660,"CCC1CC[C:1]2(C)C1[Br+:2]2.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,765,"C[O:1][H:2].OCC1=CC=CC=[C:3]1[Mg:4][Br]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4232,"COC1=C(OC)C=C(C2(CC(=O)[N-:1]C)CC[C:2](=[O:3])[CH:4]=[CH:5]2)C=C1.C[NH3+].O|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,1156,"C[S:1]C.[OH:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10034,"O=CCC[C:1](=[CH2:2])[O-:3].[H:4][OH:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,911,"C1=CC2=C(C=C1)[NH:1]C1=C2C=CC=C1.COC(=O)[C+:2]([Cu-][Cl])C1=CC=CC=C1.FC(F)(F)C1=CC([B-](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)(C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=CC(C(F)(F)F)=C1.[Na+]|(1, 2)"
train,pmechdb_split_0,0,4122,"C1C[NH:1]CCO1.C=CC1=CC2=C(C=C1)[C:2](=[O+:3][Ti-]([Cl])([Cl])([Cl])[Cl])CCO2|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9884,"CC(C)(C)[OH:1].CC[C+:2](C)C(C)C|(1, 2)"
train,pmechdb_split_0,0,6592,"C[C:1](C)=[Cl+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5731,"C=C(C)C1CCC2([C:1](Cl)=[O:2])CCC3(C)C(CCC4C5(C)CCC(=O)C(C)(C)C5CCC43C)C12.CCN(CC)CC.FC1=CC=C(N2CC[NH:3]CC2)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1714,"CC(=O)C1=C(C)C2=CN=C(NC3=NC=C(N4CC[NH:1]CC4)C=C3)N=C2N(C2CCCC2)C1=O.CCCCO[C:2]([N+]1=CC=C(N(C)C)C=C1)=[O:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1526,"O=S(=O)(O)[C:1]1([H:2])OC=C[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5942,"CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1CC2CC(OCC(C)(C)CO)([OH+:1][H:2])CC2C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6473,"CC1CCCC[C+:1]1C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,934,"CCN[C:1]([CH2:2][H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7978,"CC(=O)Cl.CC1(C)CC(=O)C=C([O:1][H:2])C1.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,299,"CC1([CH:1]2C[Br+:2]2)CCCC1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5305,"CC1CCC(C2=CC=CC=C2)[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4254,"CCSC[CH:1]=[C:2](N(CC)CC)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4027,"CCCC[C:1](C(C)CCC1CCCC1)([N:2](CC)C(CC)C1CCCCC1)[OH2+:3].CCNC(CC)C1CCCCC1.[BH3-]C#N.[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2748,"CC1CC(O)C23CCC[N:1]4CCCC24C(=O)CC3C1O.ClC1=CC([C:2](=[OH+:3])[O:4][O-:5])=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,1169,"Br[CH:1]=[CH:2][O-:3].[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4639,"C1=CC(OCCCCC2=CNC=N2)=CC=C1C=[C:1]=[CH:2][OH:3].CCO.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1229,"CC(C)N(C(OC1=CC(F)=CC=C1)=[O:1])C(C)C.CC(C)[N](C(C)C)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,979,"BrC1=C([CH:1]=[O+:2]CC[OH:3])C=C2OCOC2=C1.C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9360,"O[CH:1]=[OH+:2].[Cl-].[F-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3675,"C1=CC=C(N=N[C:1]2([H:2])OC=C[CH+:3]2)C=C1.[Cl-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5483,"CC1=CC=C(C(=O)[O:1][H:2])C=C1.C[Si](C)(C)[C-:3]([Si](C)(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1466,"C1=CC2=C(C=C1)C=C1C(=C2)C2=NC3=C(C=CC=C3)[NH2+]C12[O-:1].CC(=O)[O:2][H:3].CO.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,885,"CC[S+:1](CC=C(N)O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1957,"CCC(C1CCCCC1)[NH:1]CC.CCCCC(O)(C(C)CCC1CCCC1)[N+:2](CC)(C(CC)C1CCCCC1)[H:3].[BH3-]C#N.[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7097,"CC(C)[O+:1](C(C)(C)Br)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10199,"CC[O:1]P(C)(C)(C)N(NC(=O)OC)C(=O)OC.O=C1CCC(=O)[N:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3284,"CCC(CCC[NH:1]C(=O)CCl)(CCC1=CC2=C(C=CC=C2)N1)[CH:2]=[OH+:3].O.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6816,"CC[C:1](=[O:2])[NH:3]CCC1=CC=CC=C1.Cl[P:4](Cl)(Cl)=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
